US07572820B2
1-[(3-Cyanophenyl)methyl]-2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 4 using 2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile and 3-(bromomethyl)benzonitrile: 1H NMR (400 MHz, CDCl3) δ 7.56 (m, 1H), 7.45 (m, 2H), 7.33 (d, J=8.5 Hz, 1H), 7.21 (s, 1H), 7.12 (d, J=8.1 Hz, 1H), 6.69 (s, 1H), 5.40 (s, 2H), 2.43 (s, 3H); MS (ES) m/z 340 (M+1).

reactant | 2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | CC=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C11H7F3N2
reactant | 3-(bromomethyl)benzonitrile | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
product | 1-[(3-Cyanophenyl)methyl]-2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | C(#N)C=1C=C(C=CC1)CN1C(=CC2=C(C(=CC=C12)C#N)C(F)(F)F)C | C19H12F3N3
